US06166015
To a solution of 3-(RS)-aminomethyl-1-tert-butoxycarbonylpyrrolidine in dichloroethane (17 mL) were sequentially added diisopropylethylamine (5.1 mL), a solution of 2-(5-bromopyrimidin-2-yloxy)acetic acid (2.9 g, 12.2 mmol, 1.1 equiv.) in tetrahydrofuran (43 mL), 1-hydroxybenzotriazole hydrate (2.4 g, 17.5 mmol, 1.5 equiv.) and 1-(3-dimethyl-aminopropyl)-3-ethylcarbodiimide hydrochloride (3.4 g, 17.6 mmol, 1.5 equiv.). The solution was stirred under N2 overnight. The reaction mixture was diluted with ethyl acetate, washed with 1 M aqueous sodium hydroxide, 1 M hydrochloric acid, water and brine, then dried over sodium sulfate and concentrated. The residue was subjected to flash chromatography to afford clean N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-(5-bromopyrimidin-2-yloxy)acetamide (4.2 g).

reactant | 3-(RS)-aminomethyl-1-tert-butoxycarbonylpyrrolidine | NCC1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | diisopropylethylamine | 5.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(5-bromopyrimidin-2-yloxy)acetic acid | 12.2 mmol, 2.9 g, 1.1 equiv. | BrC=1C=NC(=NC1)OCC(=O)O | C6H5BrN2O3
reactant | 1-hydroxybenzotriazole hydrate | 17.5 mmol, 2.4 g, 1.5 equiv. | O.ON1N=NC2=C1C=CC=C2
solvent | dichloroethane | 17 mL | ClC(C)Cl | C2H4Cl2
solvent | tetrahydrofuran | 43 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-(5-bromopyrimidin-2-yloxy)acetamide | 4.2 g | C(C)(C)(C)OC(=O)N1CC(CC1)CNC(COC1=NC=C(C=N1)Br)=O | C16H23BrN4O4
